### PR TITLE
[Merged by Bors] - chore(*): use gcongr

### PR DESCRIPTION
**Pull request by urkud**
Also add a few missing `gcongr` lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/ContinuedFractions/Computation/Approximations.lean [hunk 1]
```diff
@@ -230,16 +231,14 @@ theorem fib_le_of_contsAux_b :
         -- use the IH to get the inequalities for `pconts` and `ppconts`
         have ppred_nth_fib_le_ppconts_B : (fib n : K) ≤ ppconts.b :=
           IH n (lt_trans (Nat.lt.base n) <| Nat.lt.base <| n + 1) (Or.inr not_terminatedAt_ppred_n)
-        suffices (fib (n + 1) : K) ≤ gp.b * pconts.b by
-          solve_by_elim [_root_.add_le_add ppred_nth_fib_le_ppconts_B]
+        gcongr
```
Comment (b-mehta) [inline Mathlib/Algebra/ContinuedFractions/Computation/Approximations.lean:234]: IMO changes like this one aren't necessarily improvements: if new `gcongr` lemmas are added then this proof could break in a tricky way, whereas the old `suffices` block avoided this. I know we don't strictly have a rule against non-terminal `gcongr`, but it is a flexible tactic (and in this particular case, later followed by a rigid tactic). Here, my preference would be to keep the `suffices` block with its proof replaced by `gcongr`, but there's also the option of giving the pattern to `gcongr`

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean [hunk 2]
```diff
@@ -118,22 +118,26 @@ lemma frequently_exp_le (h : a < expGrowthSup u) :
 lemma _root_.Frequently.expGrowthInf_le (h : ∃ᶠ n : ℕ in atTop, u n ≤ exp (a * n)) :
     expGrowthInf u ≤ a := by
   apply expGrowthInf_le_iff.2 fun c c_u ↦ h.mono fun n hn ↦ hn.trans ?_
-  exact exp_monotone (mul_le_mul_of_nonneg_right c_u.le n.cast_nonneg')
+  gcongr
+  apply Nat.cast_nonneg'
```
Comment (b-mehta) [inline Mathlib/Analysis/Asymptotics/ExpGrowth.lean:122]: Isn't this a sign that we should teach positivity about `Nat.cast_nonneg'`, so `gcongr` can use it?

File: Mathlib/Topology/ContinuousMap/Bounded/Basic.lean [hunk 3]
```diff
@@ -626,7 +626,7 @@ instance instLipschitzAdd : LipschitzAdd (α →ᵇ β) where
       rw [dist_le (mul_nonneg C_nonneg dist_nonneg)]
       intro x
       refine le_trans (lipschitz_with_lipschitz_const_add ⟨f₁ x, g₁ x⟩ ⟨f₂ x, g₂ x⟩) ?_
-      refine mul_le_mul_of_nonneg_left ?_ C_nonneg
+      gcongr
       apply max_le_max <;> exact dist_coe_le_dist x⟩
```
Comment (b-mehta) [inline Mathlib/Topology/ContinuousMap/Bounded/Basic.lean:630]: Should `max_le_max` be `gcongr` too?

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Analysis/Asymptotics/ExpGrowth.lean:122]: Yes, it is.

File: Mathlib/Algebra/ContinuedFractions/Computation/Approximations.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Algebra/ContinuedFractions/Computation/Approximations.lean:234]: Reverting to `suffices ... by gcongr`.

File: Mathlib/Topology/ContinuousMap/Bounded/Basic.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Topology/ContinuousMap/Bounded/Basic.lean:630]: `sup_le_sup` is a `gcongr` lemma, but here the goal is about `dist` in `Prod _ _`, so applying `max_le_max` unfolds some definitions.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 4]
```diff
@@ -77,39 +77,20 @@ section Monotonicity
...
-    rcases ENNReal.trichotomy y with (rfl | rfl | y_real)
-    · exfalso; rw [← ENNReal.bot_eq_zero] at h; exact not_lt_bot h
-    · simp
-    · simp only [(ENNReal.toReal_pos_iff.1 y_real).1.ne', ↓reduceIte,
-        (ENNReal.toReal_pos_iff.1 y_real).2.ne, EReal.coe_lt_coe_iff]
-      apply Real.log_lt_log x_real
-      exact (ENNReal.toReal_lt_toReal (ENNReal.toReal_pos_iff.1 x_real).2.ne
-        (ENNReal.toReal_pos_iff.1 y_real).2.ne).2 h
+  split_ifs <;> simp_all
+  guard_target =ₛ Real.log x.toReal < Real.log y.toReal
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:81]: I'm not sure whether we should accept non-closing `simp`s like here. I'm trying to minimize the damage by using `guard_target`.

Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:81]: Can't you just turn this into a `have` statement at the top and make the simp final?

Comment (urkud) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean]: I've added enough arguments to `simp_all` to close the goal.

**Review by grunweg — APPROVED** [review]
The changes besides adding gcongr lemmas look good to me. Thanks for doing this!

**Comment by dupuisf** [comment]
Looks good, thanks!

bors r+
